US07977354B2
Stage A: methyl 5-methoxyquinoline-3-carboxylate.
To a solution of tert-butyl N-(2-formyl-3-methoxyphenyl)carbamate (7.8 g, 31 mmol) [described in Adv. Synth. Catal. 2003, 345, 743-765] and methyl trans-3-methoxyacrylate (7.4 mL, 68.4 mmol) dissolved in 150 ml of methanol, was added slowly 100 mL of an aqueous solution of hydrochloric acid 3M. The resulting mixture was stirred under reflux for 3 hours. The reaction mixture was then cooled to room temperature and neutralised by adding Na2CO3. The aqueous solution was extracted with CH2Cl2 (4×150 mL). The combined organic layers were dried over MgSO4, filtered and evaporated under vacuum. The crude product was then filtered on silica gel (AcOEt:cyclohexane/1:1) to afford 5.6 g of compound of molecular formula C12H11NO3. Aspect: yellow powder.

reactant | tert-butyl N-(2-formyl-3-methoxyphenyl)carbamate | 31 mmol, 7.8 g | C(=O)C1=C(C=CC=C1OC)NC(OC(C)(C)C)=O | C13H17NO4
reactant | methyl trans-3-methoxyacrylate | 68.4 mmol, 7.4 mL | CO/C=C/C(=O)OC | C5H8O3
reactant | hydrochloric acid | 3M | Cl | ClH
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
solvent | methanol | 150 ml | CO | CH4O
product | methyl 5-methoxyquinoline-3-carboxylate | 5.6 g | COC1=C2C=C(C=NC2=CC=C1)C(=O)OC | C12H11NO3
